US05958942
3-Methyl-1-[4-(pentafluoropropanoylamino)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one
To a solution of 2.44 g (10.0 mmol) of 3-methyl-1-[4-(amino)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one and 1.81 ml (13.0 mmol) of triethylamine in 100 ml of acetonitrile was added, while stirring at room temperature, 2.31 g (12.0 mmol) of ethyl ester of pentafluoropropionic acid. The mixture was stirred for 14 hours at the same temperature. The solvent was distilled off. To the residue was added methylene chloride. The mixture was washed with water, which was dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography (eluent:ethyl acetate), and recrystallized from ethyl acetate--hexane to afford 1.53 g (39.1%, a colorless crystals) of the desired compound.

reactant | 3-methyl-1-[4-(amino)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 10.0 mmol, 2.44 g | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCN)=O | C13H16N4O
reactant | triethylamine | 13.0 mmol, 1.81 ml | C(C)N(CC)CC | C6H15N
reactant | pentafluoropropionic acid | FC(C(C(=O)O)(F)F)(F)F | C3HF5O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-Methyl-1-[4-(pentafluoropropanoylamino)butan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCNC(C(C(F)(F)F)(F)F)=O)=O | C16H15F5N4O2
